US07138363B2
1.0 g (approximately 60% dispersion in paraffin oil, about 25 mmol) of sodium hydride is added in portions to a solution of 5.21 g (50 mmol) of 2-cyanopyridine and 1.50 g (25 mmol) of urea in 100 ml of dimethyl sulfoxide. The resulting suspension is maintained at room temperature for 3 hours and then heated at 75° C. for 23 hours, cooled and poured into 100 ml of ice-water. The mixture is rendered neutral with 2N sulfuric acid, and the crude product is filtered off and recrystallised from 55 ml of methanol, yielding 4,6-di-pyrid-2-yl-[1,3,5]triazin-2-ol in the form of a white solid.

reactant | sodium hydride | about 25 mmol, 1.0 g | [H-].[Na+]
reactant | 2-cyanopyridine | 50 mmol, 5.21 g | C(#N)C1=NC=CC=C1 | C6H4N2
reactant | urea | 25 mmol, 1.50 g | NC(=O)N | CH4N2O
reactant | sulfuric acid | 2N | S(O)(O)(=O)=O | H2O4S
solvent | dimethyl sulfoxide | 100 ml | CS(=O)C | C2H6OS
product | 4,6-di-pyrid-2-yl-[1,3,5]triazin-2-ol | N1=C(C=CC=C1)C1=NC(=NC(=N1)C1=NC=CC=C1)O | C13H9N5O
